US04241072
C. N,N-dimethyl-N'-(2-dimethylaminoethyl)-N'-(5-methyl-3-isoxazolyl)urea Hydrochloride
To a stirred solution of 8.46 g. (0.05 mole) of N,N-dimethyl-N'-(5-methyl-3-isoxazolyl)-1,2-ethane-diamine in 75 ml. of benzene (dry) is added 5.6 g. (0.055 mole) of triethylamine followed by 5.9 g. (0.055 mole) of dimethylcarbamoyl chloride. The solution is slowly heated to 85° C. and stirred at 80°-85° C. for 6 hours. The reaction mixture is filtered and the filtrate is concentrated in vacuo. The reddish liquid residue is taken up in 125 ml. of hexane and filtered through charcoal which is then washed well with ether. Concentration of the combined filtrates in vacuo gives 10.3 g. of a reddish liquid. This is dissolved in 5 ml. of ethanol, cooled in ice and 6.8 ml. of 6 N ethanolic hydrochloric acid is added. Addition of ether precipitates the mono hydrochloride salt (11.5 g.) as an "off white" solid, which is filtered and dried in vacuo. The salt is recrystallized by dissolving it in 15 ml. of hot ethanol, adding ether with stirring to incipient cloudiness (35-40 ml.), and slowly diluting with another 100-110 ml. of ether when crystallization is well underway. Filtration affords 9.9 g. of white solid, m.p. 142.5°-143.5° C.

reactant | N,N-dimethyl-N'-(5-methyl-3-isoxazolyl)-1,2-ethane-diamine | 0.05 mole | CN(CCNC1=NOC(=C1)C)C | C8H15N3O
reactant | triethylamine | 0.055 mole | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoyl chloride | 0.055 mole | CN(C(=O)Cl)C | C3H6ClNO
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N,N-dimethyl-N'-(2-dimethylaminoethyl)-N'-(5-methyl-3-isoxazolyl)urea Hydrochloride | Cl.CN(C(=O)N(C1=NOC(=C1)C)CCN(C)C)C | InChI=1S/C11H20N4O2.ClH/c1-9-8-10(12-17-9)15(7-6-13(2)3)11(16)14(4)5;/h8H,6-7H2,1-5H3;1H
